US09283229B2
Step 2: Synthesis of methyl 2-chloro-4-(hydroxymethyl)benzoate
To a solution of 3-chloro-4-(methoxycarbonyl)benzoic acid (400 mg, 1.9 mmol) in anhydrous THF (15 mL) was added Borane methyl sulfide complex (10 M, 0.56 mL, 5.6 mmol). The resulting solution was heated at 76° C. for 6 hours. After being cooled, the mixture was slowly poured into water (40 mL) at −10° C., then followed a standard aqueous/EtOAc workup procedure to give crude product (350 mg, yield 94%).

reactant | 3-chloro-4-(methoxycarbonyl)benzoic acid | 1.9 mmol, 400 mg | ClC=1C=C(C(=O)O)C=CC1C(=O)OC | C9H7ClO4
reactant | water | 40 mL | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | methyl 2-chloro-4-(hydroxymethyl)benzoate | 350 mg, yield 94% | ClC1=C(C(=O)OC)C=CC(=C1)CO | C9H9ClO3
